US06235936B1
Synthesis of N,N′-Diethyl-N-phenylhydrazine
1,2-Diethylhydrazine dihydrochloride (1.2 equiv., 0.6 mmol, 97 mg), bromobenzene (1.0 equiv., 0.5 mmol, 0.05 mL), Pd(OAc)2 (0.05 equiv, 0.025 mmol, 6 mg), BINAP (0.05 equiv., 0.025 mmol, 16 mg), and NaOtBu (3.8 equiv., 1.9 mmol, 183 mg) and diisopropylamine (2 mL) were added to a flame dried test tube which was capped with a septum and purged briefly with argon (˜1 min.) and then heated to 80° C. for 4 hours. The reaction was then cooled to room temperature, diluted with Et2O (2 mL), filtered through Celite and concentrated under vacuum. The crude mixture was purified by flash column chromatography (2% EtOAc/Hex) to give the title product as a viscous yellow oil (27 mg, 0.16 mmol, 33% yield).

reactant | 1,2-Diethylhydrazine dihydrochloride | 0.6 mmol, 97 mg, 1.2 equiv. | Cl.Cl.C(C)NNCC
reactant | bromobenzene | 0.5 mmol, 0.05 mL, 1.0 equiv. | BrC1=CC=CC=C1 | C6H5Br
reactant | BINAP | 0.025 mmol, 16 mg, 0.05 equiv. | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaOtBu | 1.9 mmol, 183 mg, 3.8 equiv. | CC(C)(C)[O-].[Na+]
reactant | diisopropylamine | 2 mL | C(C)(C)NC(C)C | C6H15N
catalyst | Pd(OAc)2 | 0.025 mmol, 6 mg, 0.05 equiv | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | N,N′-Diethyl-N-phenylhydrazine | 0.16 mmol, 27 mg, 33% yield | C(C)N(NCC)C1=CC=CC=C1 | C10H16N2
